US04372970
A mixture of 2-chloromethyl-2,3-dimethylbenzofuran (7.2 g, 0.037 mol), sodium cyanide (3.57 g, 0.073 mol), tetrabutylammonium bromide (0.74 g, 2.3×10-3 mol), water (19 cm3) and dichloromethane (19 cm3) was vigorously stirred for 18 hr. The mixture was poured into water and extracted with dichloromethane. The extract was washed with water, dried (Na2SO4), filtered and the solvent was removed to give 2,3-dimethylbenzofuran-6-acetonitrile (3.6 g, 0.0194 mol; 52.6%). (Found: C, 77.59; H, 6.11; N, 7.40. C2H11NO requires C, 77.81; H, 5.99; N, 7.56%) t.l.c./silica/toluene RF 0.45.

reactant | 2-chloromethyl-2,3-dimethylbenzofuran | 0.037 mol, 7.2 g | ClCC1(OC2=C(C1C)C=CC=C2)C | C11H13ClO
reactant | sodium cyanide | 0.073 mol, 3.57 g | [C-]#N.[Na+]
reactant | dichloromethane | 19 cm3 | ClCCl | CH2Cl2
catalyst | tetrabutylammonium bromide | 2.3×10-3 mol, 0.74 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
solvent | water | 19 cm3 | O | H2O
product | 2,3-dimethylbenzofuran-6-acetonitrile | 0.0194 mol, 3.6 g, 52.6% | CC=1OC2=C(C1C)C=CC(=C2)CC#N | C12H11NO
